US07989634B2
Step D: (2R)-2-amino-N-{(3S)-3-[cyclohexyl((2R)-2-methyl-3-hydroxypropionyl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide HCl
(2R)-2-amino-N-{(3S)-3-[cyclohexyl((2R)-2-methyl-3-hydroxypropionyl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide TFA prepared in the above Step C was dissolved in methanol, and passed though HCl-substituted ion exchange resin to give the title compound.

reactant | (2R)-2-amino-N-{(3S)-3-[cyclohexyl((2R)-2-methyl-3-hydroxypropionyl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide TFA | OC(=O)C(F)(F)F.N[C@@H](C(=O)NN1C[C@H](CC1)N(C([C@@H](CO)C)=O)C1CCCCC1)CC1=CC=C(C=C1)Cl
solvent | methanol | CO | CH4O
product | (2R)-2-amino-N-{(3S)-3-[cyclohexyl((2R)-2-methyl-3-hydroxypropionyl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide HCl | Cl.N[C@@H](C(=O)NN1C[C@H](CC1)N(C([C@@H](CO)C)=O)C1CCCCC1)CC1=CC=C(C=C1)Cl | InChI=1S/C23H35ClN4O3.ClH/c1-16(15-29)23(31)28(19-5-3-2-4-6-19)20-11-12-27(14-20)26-22(30)21(25)13-17-7-9-18(24)10-8-17;/h7-10,16,19-21,29H,2-6,11-15,25H2,1H3,(H,26,30);1H/t16-,20+,21-;/m1./s1
